US08580957B2
Ethyl 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoate (for a preparation see Example 158) (5.41 g, 11.69 mmol) was dissolved in ethanol (100 mL) and the solution was treated with 2M NaOH aqueous solution (50 mL, 100 mmol). The resulting mixture was stirred at room temperature (air atmosphere) for approximately 2 h then most of the ethanol was removed in vacuo. The resulting yellow solution was diluted with water (resulting in the formation of an oily yellow precipitate). The aqueous phase was washed twice with DCM (which didn't dissolve the precipitate previously formed) then was acidified with a 2N hydrochloric acid aqueous solution to pH 1 and extracted twice with AcOEt. The combined AcOEt phases were washed with brine, dried using a hydrophobic frit and concentrated in vacuo. The residual yellow foam was triturated with Et2O over approximately 1 h. The resulting solid was isolated by filtration, washed with Et2O and air-dried to give 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoic acid (4.41 g, 10.1 mmol, 87%) as a cream solid.

reactant | Ethyl 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OCC)C=C1)NC1=CC=C(C=C1)Cl)C | C27H27ClN2O3
reactant | NaOH | 100 mmol, 2M, 50 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoic acid | 10.1 mmol, 4.41 g, 87% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)O)C=C1)NC1=CC=C(C=C1)Cl)C | C25H23ClN2O3
